US04470988
A solution of 3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one (1.7 g) in dimethylformamide (10 ml) is stirred at 0° C. under a nitrogen atmosphere. A solution of potassium t-butoxide (0.75 g) in dimethylformamide (6 ml) is added and the reaction mixture is stirred at 0° C. for five minutes. A solution of ethyl bromoacetate (1.0 g) in dimethylformamide (5 ml) is added and the reaction mixture stirred at 0° C. for 11/2 hours. Water (3 ml) is added, and the reaction mixture is evaporated under high vacuum. The residue is distributed between ethyl acetate (100 ml) and water (50 ml) and the aqueous layer is washed with water (50 ml) and dried over sodium sulfate. The residue is recrystallized from methanol/ether to give 1-ethoxycarbonylmethyl-3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one, mp 79°-81° C. used in the next synthetic step.

reactant | 3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one | 1.7 g | C1(C=2C(C(N1C1C(NC3=C(CCC1)C=CC=C3)=O)=O)=CC=CC2)=O | C19H16N2O3
reactant | potassium t-butoxide | 0.75 g | CC(C)([O-])C.[K+]
reactant | ethyl bromoacetate | 1.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | 3 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-ethoxycarbonylmethyl-3-phthalimido-3,4,5,6-tetrahydro-1-benzazocin-2(1H)one | C(C)OC(=O)CN1C(C(CCCC2=C1C=CC=C2)N2C(C=1C(C2=O)=CC=CC1)=O)=O | C23H22N2O5
